US04518607
Imidazole (40.8 g) in 100 ml of dimethyformamide at room temperature was treated with sodium hydride (4.8 g of 50% dispersion in mineral oil). Once a solution was obtained, 1,2-epoxyoctane (40 g) was added dropwise at room temperature and the resulting mixture placed in an oil bath and warmed to 70° for 6 hours with stirring. The resulting cooled solution was then added to 600 ml of water and extracted with ether (4×400 ml). The combined extracts were washed twice with concentrated aqueous potassium hydroxide, dried (MgSO4) and concentrated. The resulting ethereal solution was stored at 0° and the resulting precipitate filtered to give 45.93 g of 1-(2-hydroxyoctyl)imidazole, m.p. 44°-45.5° C.

reactant | Imidazole | 40.8 g | N1C=NC=C1 | C3H4N2
reactant | sodium hydride | 4.8 g | [H-].[Na+]
reactant | 1,2-epoxyoctane | 40 g | O1CC1CCCCCC | C8H16O
reactant | water | 600 ml | O | H2O
solvent | dimethyformamide | 100 ml | CN(C=O)C | C3H7NO
product | 1-(2-hydroxyoctyl)imidazole | 45.93 g | OC(CN1C=NC=C1)CCCCCC | C11H20N2O
